US04187315
N-(n-Octyl)oxamic acid
To a solution of ethyl N-(n-octyl)oxamate (5 g., 0.022 mole) in methanol (50 ml.) is added slowly NaOH solution (20 ml. of 1 N NaOH diluted with 25 ml. of H2O). After standing for one hour, the mixture is evaporated until the residue is mainly solid. 6 N HCl solution (75 ml.) is added. After stirring for 1 hour the solids are removed by filtration and dried. The yield of N-(n-octyl)oxamic is 3.85 g. (m.p. 89°-93° C.).

reactant | ethyl N-(n-octyl)oxamate | 0.022 mole, 5 g | C(CCCCCCC)NC(C(=O)OCC)=O | C12H23NO3
reactant | NaOH | 1 N, 20 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | N-(n-Octyl)oxamic acid | C(CCCCCCC)NC(C(=O)O)=O | C10H19NO3
